US07148234B2
STEP 1. 2-{4-[6-chloro-2-(1-chloro-1-methylethyl)-5-(trifluoromethyl)-1H-benzimidazol-1-yl]phenyl}ethyl acetate
To a solution of 2-{4-[6-chloro-2-(1-hydroxy-1-methylethyl)-5-(trifluoromethyl)-1H-benzimidazol-1-yl]phenyl}ethyl acetate (300 mg, 0.68 mmol) in dichloromethane (15 ml) was added thionyl chloride (0.07 ml, 1.02 mmol) and the reaction mixture was refluxed overnight. The reaction mixture was poured into water (10 ml) and the mixture was extracted with dichloromethane (30 ml). The organic layer was washed with brine (10 ml), then dried (Na2SO4). The solvent was removed to give 273 mg (87%) of the title compound as white amorphous.

reactant | 2-{4-[6-chloro-2-(1-hydroxy-1-methylethyl)-5-(trifluoromethyl)-1H-benzimidazol-1-yl]phenyl}ethyl acetate | 0.68 mmol, 300 mg | C(C)(=O)OCCC1=CC=C(C=C1)N1C(=NC2=C1C=C(C(=C2)C(F)(F)F)Cl)C(C)(C)O | C21H20ClF3N2O3
reactant | thionyl chloride | 1.02 mmol, 0.07 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-{4-[6-chloro-2-(1-chloro-1-methylethyl)-5-(trifluoromethyl)-1H-benzimidazol-1-yl]phenyl}ethyl acetate | 273 mg, 87% | C(C)(=O)OCCC1=CC=C(C=C1)N1C(=NC2=C1C=C(C(=C2)C(F)(F)F)Cl)C(C)(C)Cl | C21H19Cl2F3N2O2
